US05519034
A mixture of N-[2-(3,4-dimethoxyphenyl)ethyl]cyclobutanecarboxamide (44 g, prepared in a similar manner to that described in Example E46), phosphorus oxychloride (150 ml) and acetonitrile (900 ml) was heated under reflux for 2.5 hours. The cooled solution was poured onto dilute aqueous ammonia solution and the product was extracted into ethyl acetate. The extracts were washed with brine, dried and the solvent removed in vacuo. The resulting oil solidified on standing for 16 hours. The solid was recrystallised from petroleum ether (b.p. 60°-80° C.) to give 1-cyclobutyl-3,4-dihydro-6,7-dimethoxyisoquinoline (20 g).

reactant | N-[2-(3,4-dimethoxyphenyl)ethyl]cyclobutanecarboxamide | COC=1C=C(C=CC1OC)CCNC(=O)C1CCC1 | C15H21NO3
reactant | phosphorus oxychloride | 150 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | acetonitrile | 900 ml | C(C)#N | C2H3N
product | 1-cyclobutyl-3,4-dihydro-6,7-dimethoxyisoquinoline | 20 g | C1(CCC1)C1=NCCC2=CC(=C(C=C12)OC)OC | C15H19NO2
